US06921832B2
Preparation of (S)-2,3-epoxy-2-trifluoromethylpropionic acid
Into a 500 ml three-necked round-bottomed flask equipped with a stirrer, (S)-2,3-epoxy-2-trifluoromethylpropionic acid benzyl ester (20.9 g, 84.9 mmol, 99 ee %) was charged, and 180 ml of methanol was added for dissolution. Platinum oxide (1.63 g) was added, and then, the reaction system was substituted by hydrogen. After stirring at room temperature for 4 hours, platinum oxide was filtered off. The solvent was distilled off under reduced pressure, whereupon (S)-2,3-epoxy-2-trifluoromethylpropionic acid (11.9 g) was obtained (yield: 90%).

reactant | (S)-2,3-epoxy-2-trifluoromethylpropionic acid benzyl ester | 84.9 mmol, 20.9 g | C(C1=CC=CC=C1)OC([C@@]1(CO1)C(F)(F)F)=O | C11H9F3O3
reactant | hydrogen | [H][H] | H2
catalyst | Platinum oxide | 1.63 g | [Pt]=O
solvent | methanol | 180 ml | CO | CH4O
product | (S)-2,3-epoxy-2-trifluoromethylpropionic acid | yield: 90% | O1[C@](C(=O)O)(C1)C(F)(F)F | C4H3F3O3
